US05688946
A mixture of 1.39 g (5 mmol) of (2S,5R)-2-[(S)-3-cyclohexen-1-ylmethyl]-2,5-dihydro-5-isopropyl-3,6-dimethoxypyrazine, 1.90 g (10 mmol) of p-toluenesulphonic acid, 10 ml of 0.25N hydrochloric acid and 5 ml of methanol is stirred at room temperature for 16 hours and then at 80° for 2 hours. Subsequently, the reaction mixture is evaporated under reduced pressure and the residue is dried in a high vacuum. The thus-obtained solid mass is suspended in 30 ml of dimethylformamide, treated with 1.70 g (7.8 mmol) of di-tert-butyl dicarbonate and 1.98 ml (14.3 mmol) of triethylamine and stirred at room temperature for 2 hours. The reaction mixture is thereafter evaporated in a high vacuum and the residue is partitioned between ether and water. The ether phase is dried over sodium sulphate and evaporated. The residue is chromatographed on silica gel using a 4:1 mixture of toluene and ethyl acetate as the eluent. There is obtained Boc-3-[(S)-2-cyclohexen-1-yl]-L-alanine methyl ester as a colourless oil; MS: 227 (M-C4H8)+.

reactant | (2S,5R)-2-[(S)-3-cyclohexen-1-ylmethyl]-2,5-dihydro-5-isopropyl-3,6-dimethoxypyrazine | 5 mmol, 1.39 g | [C@H]1(CC=CCC1)C[C@@H]1N=C([C@H](N=C1OC)C(C)C)OC | C16H26N2O2
reactant | p-toluenesulphonic acid | 10 mmol, 1.90 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrochloric acid | 0.25N, 10 ml | Cl | ClH
reactant | di-tert-butyl dicarbonate | 7.8 mmol, 1.70 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 14.3 mmol, 1.98 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 5 ml | CO | CH4O
product | Boc-3-[(S)-2-cyclohexen-1-yl]-L-alanine methyl ester | COC([C@@H](NC(=O)OC(C)(C)C)C[C@H]1C=CCCC1)=O | C15H25NO4
